US07012159B1
6.0 g (23.1 mmol) of 2′-hydroxy-2-(4-hydroxyphenylthio) acetophenone and 50 mL of acetic acid were added under a room temperature into a 100 mL flask with four inlets and attached with a stirrer and a thermometer. To the resultant solution, 2.8 g (24.7 mmol) of 30% aqueous solution of hydrogen peroxide was added, and the solution was stirred for 12 hours at a room temperature. Following to the completion of the reaction, 0.5 g of dimethyl sulfide was added into the solution, and then, the solution was extracted with MIBK. The MIBK layer was washed several times with water, and followed by washing with sodium hydrogencarbonate. The MIBK in the solution was distilled out under reduced pressure, and the resultant residue was subjected to recrystallization with ethyl acetate to obtain 4.5 g of 2′-hydroxy-2-(4-hydroxyphenylsulfinyl) acetophenone. The yield was 71% and the melting point of the compound was in a range of 166 to 167° C.

reactant | 2′-hydroxy-2-(4-hydroxyphenylthio) acetophenone | 23.1 mmol, 6.0 g | OC1=C(C=CC=C1)C(CSC1=CC=C(C=C1)O)=O | C14H12O3S
reactant | hydrogen peroxide | OO | H2O2
reactant | dimethyl sulfide | 0.5 g | CSC | C2H6S
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 2′-hydroxy-2-(4-hydroxyphenylsulfinyl) acetophenone | 4.5 g, yield was 71% | OC1=C(C=CC=C1)C(CS(=O)C1=CC=C(C=C1)O)=O | C14H12O4S
